US08138187B2
Palladium as the catalyst (Pd/C, 5%, 120 mg) was added to 4-[2-(4-benzyl-4-dimethylaminocyclohex-1-enyl)-1H-indol-3-yl]butanoic acid (300 mg, 0.7 mmol) in abs. methanol (30 ml) and hydrogenation was carried out at RT for 6 h (hydrogen pressure: 3 bar). The catalyst was removed with the aid of a frit provided with a layer of Celite 1 cm high. The residue was rinsed thoroughly with methanol (500 ml). The solvent was distilled off in vacuo. 4-(2-(4-Benzyl-4-(dimethylamino)cyclohexyl)-1H-indol-3-yl)butanoic acid was obtained in a yield of 260 mg (86%) as a yellow solid (one of the two possible diastereoisomers).

reactant | 4-[2-(4-benzyl-4-dimethylaminocyclohex-1-enyl)-1H-indol-3-yl]butanoic acid | 0.7 mmol, 300 mg | C(C1=CC=CC=C1)C1(CC=C(CC1)C=1NC2=CC=CC=C2C1CCCC(=O)O)N(C)C | C27H32N2O2
reactant | hydrogen | [H][H] | H2
catalyst | Palladium | [Pd] | Pd
solvent | methanol | 30 ml | CO | CH4O
product | 4-(2-(4-Benzyl-4-(dimethylamino)cyclohexyl)-1H-indol-3-yl)butanoic acid | C(C1=CC=CC=C1)C1(CCC(CC1)C=1NC2=CC=CC=C2C1CCCC(=O)O)N(C)C | C27H34N2O2
